US06335353B1
1-Ethyl-2-methoxymethyl-3-hydroxy-6-methyl-pyridin-4(1H)-one hydrochloride
In an analogous hydrogenation procedure in the preparation of 1,6-dimethyl-2-methoxymethyl-3-hydroxy-pyridin-4(1H)-one hydrochloride using 1-ethyl-2-methoxymethyl-3-benzyloxy-6-methyl-pyridin-4(1H)-one hydrochloride (1.3 g, 4 mmol) and 5% Pd/C catalyst (0.3 g) yield the title compound 0.78 g (83%) after recrystallisation from methanol/diethyl ether, as a white crystalline solid. m.p. 174-176° C.

reactant | 1,6-dimethyl-2-methoxymethyl-3-hydroxy-pyridin-4(1H)-one hydrochloride | Cl.CN1C(=C(C(C=C1C)=O)O)COC
reactant | 1-ethyl-2-methoxymethyl-3-benzyloxy-6-methyl-pyridin-4(1H)-one hydrochloride | 4 mmol, 1.3 g | Cl.C(C)N1C(=C(C(C=C1C)=O)OCC1=CC=CC=C1)COC
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | 1-Ethyl-2-methoxymethyl-3-hydroxy-6-methyl-pyridin-4(1H)-one hydrochloride | 0.78 g, 83% | Cl.C(C)N1C(=C(C(C=C1C)=O)O)COC | InChI=1S/C10H15NO3.ClH/c1-4-11-7(2)5-9(12)10(13)8(11)6-14-3;/h5,13H,4,6H2,1-3H3;1H
